US03953415
78.95 g. (60.15 mmoles) of Z-31-39-OtBu are dissolved in 1500 ml. of 80 % acetic acid, and the mixture is hydrogenated in the presence of palladium-on-carbon. When the reaction terminates, the catalyst is filtered off, and the filtrate is evaporated to dryness. The residue is triturated with ether and filtered. 74.35 g. (99 %) of H-31-39-OtBu are obtained. M.p.: 105°C (under decomposition), Rf7 = 0.5.

reactant | Z-Ser-Ala-Glu(OtBu)-Ala-Phe-Pro-Leu-Glu(OtBu)-Phe-OtBu | 60.15 mmoles | N([C@@H](CO)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C68H97N9O17
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | H-Ser-Ala-Glu(OtBu)-Ala-Phe-Pro-Leu-Glu(OtBu)-Phe-OtBu | 99 % | N[C@@H](CO)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OC(C)(C)C)CCC1 | C60H91N9O15
